US07687482B2
Sodium methanethiolate (6 mmol, 0.42 g) and 3-phenylpropyl bromide (5 mmol, 1 g) in methanol were refluxed overnight. After removal of solvent, diethyl ether was added, washed with H2O and evaporated to give 3-phenylpropylmethyl sulfide. It was then reacted with equivalent amount of bromoacetic acid in acetonitrile (5 mL) at room temperature under N2 overnight, affording S-methyl-3-phenylpropylsulfoniumylacetic acid bromide as a white powder. It was then subjected to the general procedure 1 to give compound 585 as a white powder (0.75 g, 36% overall yield). Anal. (C12H19NaO7P2S.0.5 C2H5OH) C, H.

reactant | Sodium methanethiolate | 6 mmol, 0.42 g | C[S-].[Na+]
reactant | 3-phenylpropyl bromide | 5 mmol, 1 g | C1(=CC=CC=C1)CCCBr | C9H11Br
solvent | methanol | CO | CH4O
product | 3-phenylpropylmethyl sulfide | C1(=CC=CC=C1)CCCSC | C10H14S
